* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\galvoscanner\FET_stufe_LT1166_v4.asc
XU1 N001 Vin Vout+ N009 N007 N006 N004 N003 LT1166
V1 Vplus 0 {Vsup}
V2 Vmin 0 {-Vsup}
C1 N001 0 300p
R3 N002 N001 1
M1 Vplus N002 N003 N003 IRFP240
C2 N004 Vout+ 1µ
C3 Vout+ N006 1µ
C4 N009 0 300p
R4 N010 N009 100
M2 Vmin N010 N007 N007 IRFP9240
R7 N003 Vout+ 0.2
R8 Vout+ N007 0.2
R9 N008 N011 2
R11 Vin opOut 1k
R12 N003 N004 1k
R13 N006 N007 1k
V3 Vir 0 PULSE(0 1 0 5m 5m 0 30m)
XU3 0 N005 Vopp Vopm opOut level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N005 N011 5k
R15 N011 0 0.1
R16 N005 gen 10k
V4 Vopp 0 {Vop}
V5 Vopm 0 {-Vop}
I1 Vplus N001 {Is}
I2 N009 Vmin {Is}
V6 Vif 0 PULSE(0 -1 15m 5m 5m 0 30m)
B1 NC_01 0 V=V(Vir)+V(Vif)
L1 Vout+ N008 180µ
V7 gen 0 PULSE(-1 1 0 10u 10u 10m 20m)
XU2 N013 N014 Vopp Vopm outOp2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V8 N013 0 PULSE(-1 1 0 10m 10m 0 20m)
Q1 Vplus NC_02 N012 0 NPN
Q2 Vmin NC_03 N016 0 PNP
R1 N015 N016 10
R6 N012 N015 10
G1 0 out2 outOp2 0 100µ
R10 out2 0 300k
R5 out2 N017 50k
R18 N017 0 1k
G2 0 N014 N017 0 0.75
R2 N014 0 1
E1 N019 0 N018 0 Laplace=(BEM*(CR*KTR+(CR*FR+KTR*TE)*s+(CR*TM+TE*CR)*s**2+TM*TE*CR*s**3)+TRC)/((CR*KTR+(CR*FR+KTR*TE)*s+(CR*TM+TE*CR)*s**2+TM*TE*CR*s**3))
V9 N018 0 PULSE(-1 1 0 10m 10m 0 20m)
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.mos
.param VSUP=25
.param Vop=15
.param Is=10m
.tran 100m startup
* .step param Is 10m 30m 5m
.param KTR=47m
.param TRC=15m
.param BEM=7m
.param FR=4u
.param RIN=1.25e-8
.param CR=1.8
.param CL=180u
.param TE=0.00001
.param TM=0.00001
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
