* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\galvoscanner\OpAmp_bootstraped_LT1166_biased_isource.asc
I1 Vp N003 {Ik}
I2 N020 Vm {Ik}
R1 N003 N007 1k
R6 N015 N020 1k
D1 outOp N015 1N4148
D2 N007 outOp 1N4148
R7 N002 N001 5k
XU1 N011 N001 Op+ op- outOp level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail={rail} Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R8 N011 in 1k
Q3 Vp N006 Op+ 0 2N2222
Q4 Vm N017 op- 0 2N2907
R9 Vp N006 {R2}
R10 N017 Vm {R2}
R11 outOp N014 {R1}
R12 N010 outOp {R1}
D3 N014 N017 1N4148
D4 N006 N010 1N4148
C1 N006 N017 100n
R13 N001 0 10k
V1 Vm 0 {-Vsup}
V2 Vp 0 {Vsup}
V3 in 0 PULSE(-2 2 0 100m 100m 0) AC 1
XU2 N004 Vin Vout+ N018 N013 N012 N009 N008 LT1166
C2 N004 0 300p
R14 N005 N004 1
M3 Vp N005 N008 N008 IRFP240
C3 N009 Vout+ 1µ
C4 Vout+ N012 1µ
C5 N018 0 300p
R15 N019 N018 100
M4 Vm N019 N013 N013 IRFP9240
R16 N008 Vout+ 0.2
R17 Vout+ N013 0.2
R18 N016 N002 2
R19 Vin outOp 1k
R20 N008 N009 1k
R21 N012 N013 1k
R23 N002 0 0.1
I3 Vp N004 {Is}
I4 N018 Vm {Is}
L1 Vout+ N016 180µ
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.mos
.param Vsup=30
.param Ik=3.9m
.param R1=10k
.param R2=20k
.param rail=0
.tran 100m startup
* designfeature By Grayson King and Tim Watkins, Analog Devices Inc\n \nBootstrapping your op amp\nyields wide voltage swings
* abs(V(Op+)-V(op-))
* .step param R2 40k 10k 5k
* .step param rail 0 -5 -1
.param Is=10m
* .step param Is 10m 30m 5m
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
