* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\galvoscanner\PushPull_FET_OP_lochraster.asc
Q§T1 Vplus b1 Gn1 0 BC547B
Q§T2 Vmin b2 Gp1 0 BC327-40
R1 Gn1 Sn1 {bias}
R2 Sp1 Gp1 {bias}
R3 b1 d1 1k
R4 r4 b2 1k
D1 d1 d2 1N4148
D2 d2 r4 1N4148
Rload1 N009 N011 2.2
M1 Vplus Gn1 Sn1 Sn1 IRFP240
M2 Vmin Gp1 Sp1 Sp1 IRFP9240
R7 N011 in 1k
L1 out_A N009 100p
XU3 N015 Vmin N017 TL431
R10 Vplus N015 4.7k
Q1 N012 N015 N017 0 BC547B
R11 N017 Vmin 315
V1 Vplus 0 {vsup}
V2 Vmin 0 {-vsup}
V3 N007 0 PULSE(2.8 -2.8 0 5m 5m 0 10m)
R12 b2 N014 1m
R13 N004 b1 1m
XU1 0 in d2 opamp_param_3 Vp={0.95*Vsup} Vm={-0.95*Vsup} Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
M3 N008 N010 0 0 IRFP240
V5 N008 0 10
V6 N010 0 10
M4 0 N016 N013 N013 IRFP9240
V4 N013 0 10
V7 N016 N013 10
I1 0 N004 {IK1}
I2 N014 0 {Ik1}
R5 N011 0 0.1
R6 in N007 10k
R8 Sn1 out_A {Rs}
R9 out_A Sp1 {Rs}
XU2 Vcs N006 N005 LM334
R14 N005 N006 {Rset}
XU4 0 N002 N001 LM334
R20 N001 N002 166
R21 N001 N003 {6.8*166}
Q3 N002 N002 N003 0 BC547B
R17 N003 0 100
R16 0 N012 100
R18 0 N004 100t
R15 N006 0 100
V8 Vcs 0 30
S1 0 N004 b1 0 Osw
.model D D
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
* .step param bias list 200 1k 2.4k
.model npnx npn (Bf=200 Is={10m/exp(0.7/26m)}
.model pnpx pnp (Bf=200 Is={10m/exp(0.7/26m)}
.model Dx D (Is={(20*50u)/exp(0.7/26m)}
.tran 40m
* .step param Ik1 1m 1.05m 5u
* PULSE(-.5 .5 0 1m 1m 10m 23m)
* Vp=25 Vm=-25 Ilim=20m
.param Ik1=3m
.param bias=1.5k
.param Rs=1u
.param vsup=12
.param RSet =25
.param Rll=5k
* .temp 27 90
* .step param Rset 10 30 0.1
* .step param Rll 10 10k 200
.model Osw SW(Ron=10u Roff=10meg Vt=12 Vh=-.2)
.lib EIT_sub\opamp_parametrierbar.sub
.lib LM334.sub
.lib tl431.sub
.backanno
.end
